US07432266B2
Into a 1-neck round-bottom flask was added methyl 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoate (330 mg, 0.808 mmol), 5 mL of 1,4-dioxane, 20 mL of water and 8 mL of 2 M aqueous sodium hydroxide. The reaction was heated at 90° C. for 1.5 hours, acidified with 1N HCl until pH˜3 and extracted with 3×20 mL CH2Cl2. The combined organic fractions were dried over sodium sulfate, filtered and concentrated under reduced pressure to yield 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoic acid (260 mg, 81%) as a brown solid. LCMS M+1=395.2

reactant | methyl 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoate | 0.808 mmol, 330 mg | COC1=C(C=C(C=C1)C1=CC=NN1CC1=CC=C(C(=O)OC)C=C1)O[C@H]1COCC1 | C23H24N2O5
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2 M, 8 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoic acid | 260 mg, 81% | COC1=C(C=C(C=C1)C1=CC=NN1CC1=CC=C(C(=O)O)C=C1)O[C@H]1COCC1 | C22H22N2O5
